US09210927B2
Preparation of (E)-N-((3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)-but-1-en-1-yl)pyridin-2-yl)methyl)-3,3,3-trifluoropropanamide (CC44)
To a stirred solution of (E)-(3-chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methanamine (0.1 g, 0.2 mmol) in CH2Cl2 (5 mL) were added 3,3,3-trifluoropropanoic acid (45 mg, 0.350 mmol), EDC.HCl (67 mg, 0.350 mmol), HOBt.H2O (71 mg, 0.467 mmol) and DIPEA (60.2 mg, 0.467 mmol), and the reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with CH2Cl2 and washed with H2O. The combined CH2Cl2 layer was washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; 15% EtOAc in petroleum ether) afforded the title compound as a pale yellow liquid (30 mg, 35%): 1H NMR (400 MHz, CDCl3) δ 8.41 (s, 1H), 7.77 (s, 1H), 7.47 (br s, 1H), 7.40 (s, 2H), 6.58 (d, J=16.0 Hz, 1H), 6.45 (dd, J=16.0, 8.0 Hz, 1H), 4.68 (d, J=4.0 Hz, 2H), 4.14 (m, 1H), 3.24 (q, J=10.8 Hz, 2H); ESIMS m/z 536.88 ([M−H]−); IR (thin film) 3320, 1674, 1114, 808.

reactant | (E)-(3-chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methanamine | 0.2 mmol, 0.1 g | ClC=1C(=NC=C(C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN | C16H11Cl4F3N2
reactant | 3,3,3-trifluoropropanoic acid | 0.350 mmol, 45 mg | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | EDC.HCl | 0.350 mmol, 67 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.467 mmol, 71 mg | O | H2O
reactant | DIPEA | 0.467 mmol, 60.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-((3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)-but-1-en-1-yl)pyridin-2-yl)methyl)-3,3,3-trifluoropropanamide | 30 mg, 35% | ClC=1C(=NC=C(C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CNC(CC(F)(F)F)=O | C19H12Cl4F6N2O
